US09233965B2
To a solution of 1.21 g (3.14 mmol) of 2-(tert-butyloxycarbonyl)-6-cyano-7-(3-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxylic acid in 10 ml of tetrahydrofuran is added 0.560 g (3.45 mmol) of carbonyldiimidazole (CAS 530-62-1). After reaction for 1 hour 30 minutes at 60° C., the mixture is cooled and taken up in water, and the product is extracted with dichloromethane. The organic phase is dried over sodium sulfate and the solvent is evaporated off under reduced pressure, to give a yellow oil, which is chromatographed on a column of 24 g of silica gel, eluting with a mixture of 3% methanol in dichloromethane, to give 1.35 g of tert-butyl 6-cyano-7-(3-fluorophenyl)-8-(1H-imidazol-1-ylcarbonyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate in the form of a white foam.

reactant | 2-(tert-butyloxycarbonyl)-6-cyano-7-(3-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxylic acid | 3.14 mmol, 1.21 g | C(C)(C)(C)OC(=O)N1CC=2N(CC1)C(=C(C2C(=O)O)C2=CC(=CC=C2)F)C#N | C20H20FN3O4
reactant | carbonyldiimidazole | 3.45 mmol, 0.560 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl 6-cyano-7-(3-fluorophenyl)-8-(1H-imidazol-1-ylcarbonyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 1.35 g | C(#N)C1=C(C(=C2N1CCN(C2)C(=O)OC(C)(C)C)C(=O)N2C=NC=C2)C2=CC(=CC=C2)F | C23H22FN5O3
